US08664401B2
(R)-4-{4-[4-(4-hydroxymethyl-piperidin-1-yl)-phenyl]-2-oxo-2H-pyridin-1-yl}-2-methanesulfonyl-2-methyl-N-(tetrahydro-pyran-2-yloxy)-butyramide (85.1 mg, 0.152 mmol) was dissolved in methylene chloride (5 mL) at ambient temperature. To this solution was added 4M HCl in 1,4-dioxane (0.304 mL, 1.22 mmol) and methanol (1 ml). The resulting solution was stirred at ambient temperature for 45 minutes. The solution was concentrated to a crude residue in vacuo. To the residue was added ethyl acetate (10 ml) and the resulting slurry was stirred overnight at ambient temperature. The slurry was filtered and washed with ethyl acetate/heptanes (1:1). The solid was dried in vacuo to afford (R)—N-Hydroxy-4-{4-[4-(4-hydroxymethyl-piperidin-1-yl)-phenyl]-2-oxo-2H-pyridin-1-yl}-2-methanesulfonyl-2-methyl-butyramide hydrochloride as an off-white solid. (72.7 mg). LCMS: M+1 478.6. 1H NMR (CD3OD, 400 MHZ) dppm, 7.82 (2H, d), 7.79 (1H, d), 6.84 (1H, d), 6.80-6.77 (1H, dd), 4.35-4.28 (1H, m), 4.00-3.93 (1H, m), 3.79-3.72 (4H, m), 3.55 (2H, d), 3.09 (3H, s), 2.64-2.56 (1H, m), 2.40-2.33 (1H, m), 2.16-2.13 (2H, d), 2.00-1.92 (1H, m), 1.87-1.76 (2H, m), 1.70 (3H, s).

reactant | (R)-4-{4-[4-(4-hydroxymethyl-piperidin-1-yl)-phenyl]-2-oxo-2H-pyridin-1-yl}-2-methanesulfonyl-2-methyl-N-(tetrahydro-pyran-2-yloxy)-butyramide | 0.152 mmol, 85.1 mg | OCC1CCN(CC1)C1=CC=C(C=C1)C1=CC(N(C=C1)CC[C@@](C(=O)NOC1OCCCC1)(C)S(=O)(=O)C)=O | C28H39N3O7S
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 1.22 mmol, 0.304 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
product | (R)—N-Hydroxy-4-{4-[4-(4-hydroxymethyl-piperidin-1-yl)-phenyl]-2-oxo-2H-pyridin-1-yl}-2-methanesulfonyl-2-methyl-butyramide hydrochloride | Cl.ONC([C@](CCN1C(C=C(C=C1)C1=CC=C(C=C1)N1CCC(CC1)CO)=O)(C)S(=O)(=O)C)=O | InChI=1S/C23H31N3O6S.ClH/c1-23(22(29)24-30,33(2,31)32)10-14-26-13-9-19(15-21(26)28)18-3-5-20(6-4-18)25-11-7-17(16-27)8-12-25;/h3-6,9,13,15,17,27,30H,7-8,10-12,14,16H2,1-2H3,(H,24,29);1H/t23-;/m1./s1
